US04495190
Hydrogen bromide gas was added over a period of about 30 minutes to a solution of 2-fluorobutyrolactone (1.8 g) in ethanol (15 ml) at 0° C. The reaction mixture was left at room temperature for 3 days, after which it was evaporated in vacuo. The residue was dissolved in icewater, the solution was neutralized with sodiumcarbonate and extracted with ether. The ether solution was washed with an aqueous saturated Na2SO4 solution, dried over Na2SO4 and evaporated to give 4-bromo-2-fluorobutyric acid ethyl ester (1.26 g, 34%). nD20 =1.4698. 1H-NMR (CDCl3, MeSi)δ: 1.3 (t, J=7 Hz, CH3); 2.1-2.8 (m, CH2); 3.55 (t, J=7 Hz, CH2Br); 4.3 (q, J=7 Hz, CH2); 4.75 and 5.55 (two triplets, J=6 Hz, CHF, JCHF =50 Hz).

reactant | Hydrogen bromide | Br | BrH
reactant | 2-fluorobutyrolactone | 1.8 g | FC1C(=O)OCC1 | C4H5FO2
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 4-bromo-2-fluorobutyric acid ethyl ester | 1.26 g, 34% | C(C)OC(C(CCBr)F)=O | C6H10BrFO2
